US08026359B2
Step B: Preparation of N-(2-methoxy-1-methylethyl)-6-(trimethylstannyl)-4-pyrimidinamine
To a solution of 6-iodo-N-(2-methoxy-1-methylethyl)-4-pyrimidinamine (i.e., the product of Step A) (2.0 g, 6.82 mmol) and hexamethyldistannane (2.34 g, 7.16 mmol) in 1,4-dioxane (70 mL) under a nitrogen atmosphere was added bis(triphenyl phosphine)palladium(II) dichloride (0.14 g, 0.205 mmol). The resulting mixture was stirred at reflux for 3 h. After cooling to room temperature the solution was diluted with water and extracted with ethyl acetate. The organic layers were combined and washed three times with water, dried and concentrated to give 2.2 g of the title compound.

reactant | 6-iodo-N-(2-methoxy-1-methylethyl)-4-pyrimidinamine | IC1=CC(=NC=N1)NC(COC)C | C8H12IN3O
reactant | hexamethyldistannane | 7.16 mmol, 2.34 g | C[Sn]([Sn](C)(C)C)(C)C
solvent | 1,4-dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | bis(triphenyl phosphine)palladium(II) dichloride | 0.205 mmol, 0.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(2-methoxy-1-methylethyl)-6-(trimethylstannyl)-4-pyrimidinamine | 2.2 g | COCC(C)NC1=NC=NC(=C1)[Sn](C)(C)C | InChI=1S/C8H12N3O.3CH3.Sn/c1-7(5-12-2)11-8-3-4-9-6-10-8;;;;/h3,6-7H,5H2,1-2H3,(H,9,10,11);3*1H3;
